US06350771B1
Acetyl chloride (0.27 ml) was added to a solution of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (1.0 g) and triethylamine (0.56 ml) in tetrahydrofuran at 0° C. and the mixture stirred for 1 hour. The solvent was evaporated and the residue chromatographed on silica gel eluting with 3:1 dichloromethane/ethyl acetate to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(acetyl)oxime (0.83 g)as an orange solid m.p. 130-134° C. Compound 10.

reactant | Acetyl chloride | 0.27 ml | C(C)(=O)Cl | C2H3ClO
reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 1.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-(acetyl)oxime | 0.83 g | C(C)(=O)ON=CC1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H11Cl2F3N4O3S
